US04971986
(b) 6-Chloro-4-methyl-2-(2-phenylethenyl)-pyrimidine
212 mg (1 mmol) of 6-hydroxy-4-methyl-2-(2-phenylethenyl)-pyrimidine in 1 ml of phosphorus oxychloride are boiled under reflux for 35 minutes under nitrogen. When cool, the reaction mixture is poured onto ice, and the aqueous solutin is neutralised with sodium hydroxide solution and extracted several times with ether. The ether extracts are washed with water and saturated sodium chloride solution, dried over CaCl2, filtered with suction and concentrated. Purification is effected by sublimation in a bulb tube oven at 150° oven temperature and in vacuo (0.1 mm Hg=0.13 mbar). Colourless crystals of m.p. 71°-73° are obtained.

reactant | 6-hydroxy-4-methyl-2-(2-phenylethenyl)-pyrimidine | 1 mmol, 212 mg | OC1=CC(=NC(=N1)C=CC1=CC=CC=C1)C | C13H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphorus oxychloride | 1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-4-methyl-2-(2-phenylethenyl)-pyrimidine | ClC1=CC(=NC(=N1)C=CC1=CC=CC=C1)C | C13H11ClN2
